* SKY130 Bandpass Filter — v2 Iteration 20
* Architecture: HPF (1st order, 100GΩ) + 8th-order Sallen-Key LPF
*
* All sections at fc=178 Hz. Section 4 Q_des=2.10.
* 5 opamps total. Cc=50p for sections 1-4, Cc=100p for section 4 opamp.

.lib "/home/ubuntu/workspace/sky130_models/sky130.lib.spice" tt

.param vdd_val = 1.8
.param vcm_val = 0.9

**********************************************
* SUPPLY AND BIAS
**********************************************
Vdd vdd 0 {vdd_val}
Vss vss 0 0
Vcm vcm 0 {vcm_val}

* Bias: ~280 nA reference
Rbias vdd nbias 4.5Meg
Xbias_n nbias nbias vss vss sky130_fd_pr__nfet_01v8 w=2u l=4u

**********************************************
* TWO-STAGE MILLER OPAMP (low-power)
**********************************************
.subckt miller_opamp inp inn out vdd vss nbias params: cc_val=50p
XM3 s1out s1mir vdd vdd sky130_fd_pr__pfet_01v8 w=4u l=2u
XM4 s1mir s1mir vdd vdd sky130_fd_pr__pfet_01v8 w=4u l=2u
XM1 s1out inp tail1 vss sky130_fd_pr__nfet_01v8 w=30u l=4u
XM2 s1mir inn tail1 vss sky130_fd_pr__nfet_01v8 w=30u l=4u
XM5 tail1 nbias vss vss sky130_fd_pr__nfet_01v8 w=2u l=4u
XM6 out s1out vdd vdd sky130_fd_pr__pfet_01v8 w=16u l=0.5u
XM7 out nbias vss vss sky130_fd_pr__nfet_01v8 w=1.5u l=4u
Cc s1out out {cc_val}
.ends miller_opamp

**********************************************
* DC FEEDBACK RESISTOR
**********************************************
.subckt pseudo_res a b vdd
Rpr a b 100G
.ends pseudo_res

**********************************************
* STAGE 1: HIGH-PASS FILTER (1st order)
**********************************************
C_in input hpf_in 50p ic=0
Xpr_fb hpf_in hpf_out vdd pseudo_res
C_fb hpf_in hpf_out 50p ic=0
Xamp1 vcm hpf_in hpf_out vdd vss nbias miller_opamp cc_val=50p

**********************************************
* STAGE 2: 8th-order Sallen-Key Butterworth LPF at fc=178 Hz
**********************************************
* R = 10 MΩ, k = 89.4 pF

* --- Section 1 (Q=0.5098) ---
R_s1a hpf_out s1_mid 10Meg
R_s1b s1_mid s1_buf 10Meg
C_s1a s1_mid s1_out 90p
C_s1b s1_buf vcm 87p
Xamp2 s1_buf s1_out s1_out vdd vss nbias miller_opamp cc_val=50p

* --- Section 2 (Q=0.6013) ---
R_s2a s1_out s2_mid 10Meg
R_s2b s2_mid s2_buf 10Meg
C_s2a s2_mid s2_out 107p
C_s2b s2_buf vcm 73p
Xamp3 s2_buf s2_out s2_out vdd vss nbias miller_opamp cc_val=50p

* --- Section 3 (Q=0.9000) ---
R_s3a s2_out s3_mid 10Meg
R_s3b s3_mid s3_buf 10Meg
C_s3a s3_mid s3_out 159p
C_s3b s3_buf vcm 49p
Xamp4 s3_buf s3_out s3_out vdd vss nbias miller_opamp cc_val=50p

* --- Section 4 (Q_des=2.10) ---
R_s4a s3_out s4_mid 10Meg
R_s4b s4_mid s4_buf 10Meg
C_s4a s4_mid s4_out 375p
C_s4b s4_buf vcm 21p
Xamp5 s4_buf s4_out s4_out vdd vss nbias miller_opamp cc_val=100p

**********************************************
* OUTPUT
**********************************************
Rout s4_out output 100

**********************************************
* INPUT SOURCE
**********************************************
Vin input vcm dc 0 ac 1

.end
